US05175347
50 g of acetyl chloride (=0.64 mole) were slowly added dropwise to a solution of 100 g of (-)-nopol (=0.6 mole) and 130 ml of triethylamine (=0.93 mole) in 600 ml of dichloromethane while cooling in ice at a temperature of 5° to 10° C. The reaction mixture was subsequently stirred at 5° to 10° C. for a further 20 minutes. The reaction mixture was then further stirred without cooling until it had warmed to room temperature. To work up the reaction mixture, it was stirred into 800 ml of ice-water. The organic phase was separated, the aqueous phase was washed with 100 ml of dichloromethane, and the combined organic phases were washed to neutrality with saturated aqueous sodium bicarbonate solution and dried over sodium sulfate. The residue after removal of the dichloromethane by distillation was 130 g of crude product, from which (-)-nopyl acetate was isolated by fractional distillation. 98 g of (-)-nopyl acetate with a boiling point of 117°-119° C. (10 mm Hg) and a refractive index nD20 =1.4722 were obtained.

reactant | acetyl chloride | 0.64 mole, 50 g | C(C)(=O)Cl | C2H3ClO
reactant | (-)-nopol | 0.6 mole, 100 g | CC1(C2CC=C(C1C2)CCO)C | C11H18O
reactant | triethylamine | 0.93 mole, 130 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | (-)-nopyl acetate | CC(=O)OCCC1=CC[C@H]2C[C@@H]1C2(C)C | C13H20O2
